US07138425B2
a) 2-(3-Amino-4-methoxyphenyl)-5-chlorobenzoxazole
Prepared by the method of Example 1a), from 4-chloro-2-aminophenol (429 mg, 2.9 mmol) and 4-methoxy-3-aminobenzoic acid (500 mg, 2.9 mmol) the subtitle compound was obtained, 111 mg (10%). 1H NMR (CDCl3) δ 7.70(d, J=1.9 Hz, 1H), 7.65(dd, J=1.9, 8.3 Hz, 1H), 7.59(d, J=1.9 Hz, 1H), 7.46(d, J=8.3 Hz, 1H), 7.28(dd, J=1.9, 8.3 Hz, 1H), 6.90(d, J=8.3 Hz, 1H), 3.96(s, 3H). MS 275 m/z (M+H)+.

reactant | 4-chloro-2-aminophenol | 2.9 mmol, 429 mg | ClC1=CC(=C(C=C1)O)N | C6H6ClNO
reactant | 4-methoxy-3-aminobenzoic acid | 2.9 mmol, 500 mg | COC1=C(C=C(C(=O)O)C=C1)N | C8H9NO3
product | 2-(3-Amino-4-methoxyphenyl)-5-chlorobenzoxazole | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Cl | C14H11ClN2O2
